US09120749B2
{4-[trans-4-(Aminomethyl)cyclohexylamino]-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl {trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl}methylcarbamate (0.123 mmol) was reacted with TFA (2 mL) to afford the desired product (23 mg, 40% over two steps) as a yellow solid: 1H NMR (300 MHz, CD3OD+TFA-d) δ 9.37 (s, 1H), 8.45 (s, 1H), 8.26 (d, J=8.7 Hz, 1H), 7.98 (d, J=8.7 Hz, 1H), 7.63-7.47 (m, 2H), 4.51 (s, 1H), 2.92-2.83 (m, 3H), 2.46-2.40 (m, 2H), 2.11-1.98 (m, 2H), 1.83-1.63 (m, 3H), 1.32-1.14 (m, 6H); ESI MS m/z 468 [C26H27ClFN3O2+H]+; HPLC 98.6% (AUC), tR=11.33 min.

reactant | tert-butyl {trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl}methylcarbamate | 0.123 mmol | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C31H35ClFN3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[trans-4-(Aminomethyl)cyclohexylamino]-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 23 mg, 40% | NC[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(=O)C1CC1 | C26H27ClFN3O2
